US06784191B2
Step 8 Synthesis of 3-(2-(t-butoxycarbonylamino)ethoxy)-4-hydroxymethylbenzonitrile
4.15 g (12.95 mmol) of methyl 2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyano-benzoate was dissolved in 60 ml of tetrahydrofuran (dehydrated). 8.6 ml (17.2 mmol) of 2 M lithium borohydride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. The solvent was evaporated, and the residue was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | methyl 2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyano-benzoate | 12.95 mmol, 4.15 g | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)OC)C=CC(=C1)C#N | C16H20N2O5
reactant | lithium borohydride | 17.2 mmol, 2 M, 8.6 ml | [BH4-].[Li+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(2-(t-butoxycarbonylamino)ethoxy)-4-hydroxymethylbenzonitrile | C(C)(C)(C)OC(=O)NCCOC=1C=C(C#N)C=CC1CO | C15H20N2O4
